US06436915B1
Synthesis of 3,5-Diamino-4-[(2-isopropylphenyl)hydrazono]pyrazole
This compound was prepared using 106 mg (0.5 mmol) of 2-[(2-isopropylphenyl)-hydrazono]malononitrile, which was derived from 2-isopropylaniline (142 μL, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube approximately 5 min after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 90 mg (73%) of the title compound as a greenish yellow solid.

reactant | 2-[(2-isopropylphenyl)-hydrazono]malononitrile | 0.5 mmol, 106 mg | C(C)(C)C1=C(C=CC=C1)NN=C(C#N)C#N | C12H12N4
reactant | 2-isopropylaniline | 1.0 mmol, 142 μL | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(2-isopropylphenyl)hydrazono]pyrazole | 90 mg, 73% | NC1=NN=C(C1=NNC1=C(C=CC=C1)C(C)C)N | C12H16N6
